US09332754B2
Production of 5-thiocyanatopentyl-[4-chloro-2-fluoro-5-(2,2,2-trifluoroethylthio)phenyl]ether (present compound No. A-0670)
To 60 ml of ethanol were added 4.2 g (10.3 mmol) of 5-bromopentyl-[4-chloro-2-fluoro-5-(2,2,2-trifluoroethylthio)phenyl]ether and 5.0 g (51.5 mmol) of potassium thiocyanate. The mixture was refluxed for 4 hours under heating. The mixture was allowed to cool to room temperature, and the solvent was distilled off under reduced pressure. Then extraction was conducted by adding water and ethyl acetate. The organic phase obtained was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: a mixed solvent of n-hexane:ethyl acetate=10:1), to obtain 3.9 g (yield: 98%) of an intended product.

reactant | ethanol | 60 ml | C(C)O | C2H6O
reactant | 5-bromopentyl-[4-chloro-2-fluoro-5-(2,2,2-trifluoroethylthio)phenyl]ether | 10.3 mmol, 4.2 g | BrCCCCCOC1=C(C=C(C(=C1)SCC(F)(F)F)Cl)F | C13H14BrClF4OS
reactant | potassium thiocyanate | 51.5 mmol, 5.0 g | [S-]C#N.[K+]
reactant | n-hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-thiocyanatopentyl-[4-chloro-2-fluoro-5-(2,2,2-trifluoroethylthio)phenyl]ether | 3.9 g, yield: 98% | S(C#N)CCCCCOC1=C(C=C(C(=C1)SCC(F)(F)F)Cl)F | C14H14ClF4NOS2
